Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pressure 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo with HTN, asthma, and history of PMR who 
had
a syncopal episode one week ago and was admitted to OSH for
observation with abnormal telemetry during hospital stay
including bigeminy and trigeminy as well as an unremarkable
echocardiogram. He was discharged to home with plans for EP
follow-up. He presents today for chest pressure x two weeks. 

 Mr. ___ describes the recent presentation to ___
one week ago. He says that he was sitting at his desk for work
and got up and down going to the printer several times 
throughout
the day. On one of these occasions, he woke up on the ground. He
denies preceding symptoms such as chest pain, lightheadedness,
headache, chest pain, chest pressure, or palpitations. He 
reports
that when he awoke from the syncopal episode he had a headache
behind his eyes as well as tingling in his left arm. He waited
for the first responders to come prior to getting up. He says
that his blood pressure at this time was 190/90, which was quite
high for him. He denies other abnormal vital signs at that time,
and his glucose was normal. He recalls being lightheaded when he
did stand up. He was taken to the ED and was found to have
unremarkable laboratory evaluation and an electrocardiogram with
frequent VPBs per outside documentation. He was admitted for
observation and underwent an echocardiogram which was
unremarkable. He was evaluated by cardiology who recommended
follow-up with EP and started metoprolol tartrate 25 mg BID,
which he did not start. Of note, he has a history of 
palpitations
that are intermittent extra or a skipped beat. These have never
bothered him now or in the past. He did not have any episodes of
syncope or pre-syncope after this episode last week. Of note, he
had a syncopal episode in the 1980s when staying awake all night
after getting out of the shower. 

 He presented to the ED today because of chest pressure. He 
tells
me that the chest pressure has been intermittent over the past
two weeks. He said that he did have episodes prior to his
syncopal episode. He described the discomfort as pressure on his
chest which comes and goes. He has not noticed if it worsens 
with
walking around. He was has been active, but he has not been as
active lately due to switching jobs roughly a month ago. The 
last
time he was active was 6 weeks ago on a trip to ___ when
he walked up to 4 miles at a brisk pace with incline without
symptoms and good tolerance. Before that, he and wife would do
walks of similar intensity. He has not done that since this
discomfort started. He denies radiation. He denies associated
symptoms such as shortness of breath, palpitations,
lightheadedness. Symptoms are not associated with eating. 

 He had a stress test in ___ for dyspnea when shoveling snow
which he believes was likely related to his asthma. He reports
that this was negative. He has hypertension for which he takes
his medications as prescribed. He has a family history of CAD in
his father who had an MI and CABG in his ___ and died of
infectious complications. His mother and brother have afib. He
has healthy children. He is a never smoker and drinks socially. 

 A full 10 point review of systems was reviewed and is otherwise
negative in detail. No fevers, chills, no cough. No weight loss
or gain. No swelling, orthopnea. Lost 50+ lbs a few years ago
intentionally and has kept the weight off. No changes in his
appetite. He has been staying well hydrated and eating well
including the day of the event. 

In the ED initial vitals were:  
T 99.0   HR 85   BP 132/85   RR 18   Sat 96% RA 

EKG ___: sinus rhythm, normal PR interval, normal axis,
VPBs with trigeminy pattern of similar morphology of VPBs, 
normal
QTc interval, no ST-TW change s concerning for ischemia

Labs/studies notable for:
---------- 
___
21:22
----------   
Trop-T: <0.01  

---------- 
___
15:06
----------  
140 | 101 | 16  < 103   AGap=13 
4.2 | 26  | 1.0 
 
Trop-T: <0.01 
 
6.8 > 14.7 < 179 
      43.3  

CXR ___: No acute cardiopulmonary process. 

Stress Echo ___:
Modified ___ protocol for 7 min 45 sec ___ METS) representing
a poor exercise capacity for age and gender. The test was 
stopped
due to high grade ventricular ectopy (Drop in SBP in setting of
frequent vpbs, multiple ventricular couplets and 4 beat run of
VT). Heart rate increased to 142 bpm (65 % APMHR) with a peak
systolic blood pressure of 150 mmHg (peak rate-pressure product 
=
___. EKG no ischemic changes with stress or during recovery.
Poor functional exercise capacity for age and gender. No 
ischemic
ECG changes and no 2D echocardiographic evidence of inducible
ischemia to achieved workload. Normal resting blood pressure 
with
a normal blood pressure and a normal heart rate response to
stress.

Patient was given:  
- Amlodipine 5mg  
- Hydrochlorothiazide 12.5mg 

Vitals on transfer:  
T 99  HR 85  BP 132/85  RR 18  Sat 96% RA

On the floor...  
He confirms the above history with additional details: His chest
pressure that started 2 weeks ago was always localized in his 
mid
chest w/o radiation, at worst ___ but recent reached ___ (what
brought him in), comes and goes ~2x/day, lasts 45min-1hr, not
associated with activity or food, and not worsened by deep
breathing or palpation. However, the onset of the chest pressure
was correlated with new stress at work with new 
responsibilities.
The chest pressure is worsened by stress and relieved by 
'walking
away' and relaxing. He denies recent illness, sick contacts,
travel outside the country, recent asthma attacks, or diminished
exercise tolerance. He is mildly active. He goes on walks for
45min-1hr twice weekly but has gone on 5 mile walks 
periodically.
He denies current CP, SOB, cough, palpitations, lightheadedness,
nausea, or diaphoresis. Of note, he mentions that our ER nurse
woke him last night to check on him because his oxygen sat
dropped while asleep and was asked about OSA history (has none). 


 
REVIEW OF SYSTEMS:  
Positive per HPI.  
 
Cardiac review of systems is notable for absence of chest pain,
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea,
ankle edema, or palpitations.  
 
On further review of systems, denies fevers or chills. Denies 
any
prior history of stroke, TIA, cough, hemoptysis, black stools or
red stools. Denies exertional buttock or calf pain. All of the
other review of systems were negative.  
 
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  

2. CARDIAC HISTORY  
- Coronaries: Stress ___ ago at ___.
- ECHO ___ at ___: normal LV function EF 55%, trivial 
MR,
mild MAC, mild LVH, normal RV function, no effusion, no LVOT
gradient
- Rhythm: Ventricular trigeminy

3. OTHER PAST MEDICAL HISTORY
- Hiatal hernia  
- Thyroid nodule/benign biopsy 
- Asthma
- Cataracts s/p surgery x 2
- Knee surgery x 2
- Bronchitis (last attack ___
- PMR 

 
Social History:
___
Family History:
Father - CAD, MI and CABG in his ___, heart valve replaced at
___ for which he died of infectious complications. 
Mother and Brother - ___ and Stroke. 
No sudden cardiac death. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
===============================
VS: T98.3  BP 156/75   HR 74   RR 22   O2SAT 95%RA  
GENERAL: Well developed, well nourished middle aged male in NAD.
Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP of 6 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and irregular rhythm with a pause after third
beat. Normal S1, S2. No murmurs, rubs, or gallops. No thrills or
lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. Wheezes throughout, no
crackles or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL EXAMINATION:  
===============================
VS: 24 HR Data (last updated ___ @ 447)
    Temp: 97.9 (Tm 98.3), BP: 136/85 (125-156/75-85), HR: 62
(62-74), RR: 18 (___), O2 sat: 96% (93-96), O2 delivery: Ra,
Wt: 228.2 lb/103.51 kg    
GENERAL: Well developed, well nourished middle aged male in NAD.
Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP of 6 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and irregular rhythm with a pause after third
beat. Normal S1, S2. No murmurs, rubs, or gallops. No thrills or
lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. Wheezes throughout, no
crackles or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:06PM BLOOD WBC-6.8 RBC-4.65 Hgb-14.7 Hct-43.3 MCV-93 
MCH-31.6 MCHC-33.9 RDW-12.2 RDWSD-41.8 Plt ___
___ 03:06PM BLOOD Neuts-55.5 ___ Monos-10.3 Eos-5.7 
Baso-1.0 Im ___ AbsNeut-3.77 AbsLymp-1.83 AbsMono-0.70 
AbsEos-0.39 AbsBaso-0.07
___ 03:06PM BLOOD Glucose-103* UreaN-16 Creat-1.0 Na-140 
K-4.2 Cl-101 HCO3-26 AnGap-13
___ 03:06PM BLOOD cTropnT-<0.01
___ 09:22PM BLOOD cTropnT-<0.01

DISCHARGE LABS:
===============
___ 08:05AM BLOOD WBC-6.0 RBC-4.56* Hgb-14.7 Hct-42.4 
MCV-93 MCH-32.2* MCHC-34.7 RDW-12.4 RDWSD-42.2 Plt ___
___ 08:05AM BLOOD Glucose-101* UreaN-15 Creat-0.9 Na-141 
K-3.9 Cl-102 HCO3-27 AnGap-12
___ 08:05AM BLOOD CK-MB-2 cTropnT-<0.01
___ 08:05AM BLOOD Calcium-8.9 Phos-3.9 Mg-2.3 Cholest-225*
___ 08:05AM BLOOD %HbA1c-5.0 eAG-97
___ 08:05AM BLOOD Triglyc-95 HDL-65 CHOL/HD-3.5 
LDLcalc-141*
___ 08:05AM BLOOD TSH-2.2

IMAGING/STUDIES:
================
CXR ___:
Lungs are clear.  There is no consolidation, effusion, or edema. 
 The 
cardiomediastinal silhouette is within normal limits.  
Hypertrophic changes noted in the spine. 
IMPRESSION:  
No acute cardiopulmonary process. 

STRESS ECHO ___:
IMPRESSION: Drop in SBP in setting of frequent vpbs, multiple 
ventricular couplets and 4 beat run of VT in the absence of 
angina or 
ischemic EKG change. Normal heart rate and blood pressure 
response to 
exericse. Echo report sent separately. 
CONCLUSION:
Indication: atypical chest pain and syncope.
Type of stress/symptoms: The patient exercised on a modified 
___ protocol for 7 min 45 sec ___
METS) representing a poor exercise capacity for age and gender. 
The test was stopped due to high grade
ventricular ectopy.
Hemodynamics: There was a normal resting blood pressure. At 
rest, the blood pressure was 110/78
mmHg and the heart rate was 76 bpm. In response to stress, the 
heart rate increased to 142 bpm (65 %
APMHR) with a peak systolic blood pressure of 150 mmHg (peak 
rate-pressure product = ___.
ECG: The stress ECG showed showed no ischemic changes with 
stress or during recovery.
Rest echo: Resting echo images demonstrated normal left 
ventricular wall thicknesses with a normal
cavity size. There is normal regional left ventricular systolic 
function and normal global systolic
function. The right ventricular cavity size is normal with 
normal free wall motion. There is no
pericardial effusion. Doppler demonstrates no aortic valve 
stenosis, no aortic regurgitation, trivial mitral
regurgitation and no left ventricular outflow tract gradient at 
rest or with Valsalva.
Stress echo: Echo images were acquired within 34sec post stress 
at heart rates of 136 to 127bpm. These
demonstrated appropriate augmentation of all left ventricular 
segments. There was appropriate
augmentation of right ventricular free wall motion.
Exercise conclusion: Poor functional exercise capacity for age 
and gender. No ischemic ECG changes
and no 2D echocardiographic evidence of inducible ischemia to 
achieved workload. Normal

 
Brief Hospital Course:
Mr. ___ is a ___ year old with HTN, asthma, history of PMR, and 
a syncopal episode one week ago who presents for atypical chest 
pressure and risk factors for CAD with a negative ischemic 
workup but concerning run of VT during stress test. 

ACTIVE ISSUES: 
===============
#Chest pressure:
His chest pressure was atypical given that it is not worsened 
with exertion and no associated symptoms nor radiation. The 
association of the chest pressure with emotional/psychological 
stress and relief with relaxation methods suggests anxiety. TTE 
at ___ showed normal EF and normal LV function early ___. 
Risk factors for CAD include hypertension and family history. 
Negative trops x 3. An ECHO stress test revealed no EKG changes 
concerning for ischemia or hypo/dyskinesis on ECHO. He did have 
a short run (4 beat) of VT with no other events. He was admitted 
for observation overnight. Other risk factors for CAD were 
explored, including diabetes and hyperlipidemia but A1c is 5% 
but lipids were Tchol 225/ HDL 65/ LDL 141/ ___ 95. Atorvastatin 
80mg qd and ASA 81mg qd were started. Due to a relatively 
negative ischemic workup he was observed overnight without event 
on telemetry and discharge the next day.

#Syncope:
Occurred one week ago with no preceding symptoms and associated 
with chest pressure. No postictal state or abnormal blood 
glucose. Family history of arrhythmias (AFib) but none observed 
on telemetry. Orthostatic vital signs negative. Chest pressure 
episodes started before (2wks ago) syncope and have happened 
since without syncope. No symptoms or events on telemetry were 
ever observed during this short admission. Will require further 
workup in outpatient setting.

#Trigeminity:
In regards to his trigeminy, these rarely cause severe symptoms 
and have no known independent prognostic importance. They 
represent only a repeating pattern of VPBs. Occasionally, 
patient's may have symptoms from VPBs including palpitations, 
dizziness, lightheadedness. Chest pain and syncope would be
atypical presentations for VPBs although syncope could reflect 
another arrhythmic etiology rather than VPBs and may warrant 
further evaluation with monitor on discharge. 

CHRONIC ISSUES:
================
#Hypertension:
He continued his home Amlodipine and HCTZ during this admission 
with adequate control.

#Asthma:
The patient was diffusely wheezy on admission but did not take 
Advair on day of presentation. He had a ___ episode 
of bronchitis treated with steroids x 5 days. He continued his 
home Advair during this admission with improvement in wheezing. 
No asthma attacks were observed and he needed no Albuterol 
rescue. 

# CODE STATUS: Full confirmed 
# CONTACT: ___ (wife and HCP) Phone

TRANSITIONAL ISSUES:
====================
- No episodes of syncope or telemetry events during this 
admission and orthostatic vital signs negative, therefore, 
further workup in outpatient is recommended. 
- Consider an event(___) monitor as part of syncope workup. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. amLODIPine 5 mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH DAILY 
4. Albuterol Inhaler 1 PUFF IH Q6H:PRN dyspnea 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*3 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
4.  Albuterol Inhaler 1 PUFF IH Q6H:PRN dyspnea  
5.  amLODIPine 5 mg PO DAILY  
6.  Hydrochlorothiazide 12.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
========
Atypical Chest Pain
Premature Ventricular Complex - Trigeminy

SECONDARY:
==========
Hypertension
Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

    You were admitted to ___ ___ ___ 
due to chest pressure. You underwent an extensive workup for 
coronary artery disease including lab tests and an exercise 
stress test that did not reveal disease. We monitored you in the 
hospital overnight without concerning observing concerning 
events. We feel confident in discharging you home.

    Please follow up with your primary care provider ___ 2 
weeks to further explore your chest pressure and your episode of 
loss of consciousness. 

    Thank you for allow us to be a part of your care.

Sincerely,

Your ___ Cardiology Care Team 
 
Followup Instructions:
___